US07262212B2
A mixture of 1-bromo-4-(trifluoromethoxy)-benzene (1.53 g, 6.35 mmol), 4-formylbenzeneboronic acid (1 g, 6.67 mmol), tetrakis(triphenylphosphine)-palladium (147 mg, 0.13 mmol), and potassium phosphate (2.02 g, 9.53 mmol) in DMF (10 ml) was stirred at 100° C. for 5 hours. The reaction mixture was poured into water, and extracted with ethyl acetate, and the extract was washed with water three times and brine, and dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane/methylene chloride=3/1) to afford 4′-trifluoromethoxybiphenyl-4-carbaldehyde (1.56 g, yield 92%) as a white powder.

reactant | 1-bromo-4-(trifluoromethoxy)-benzene | 6.35 mmol, 1.53 g | BrC1=CC=C(C=C1)OC(F)(F)F | C7H4BrF3O
reactant | 4-formylbenzeneboronic acid | 6.67 mmol, 1 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | potassium phosphate | 9.53 mmol, 2.02 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)-palladium | 0.13 mmol, 147 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4′-trifluoromethoxybiphenyl-4-carbaldehyde | 1.56 g, yield 92% | FC(OC1=CC=C(C=C1)C1=CC=C(C=C1)C=O)(F)F | C14H9F3O2
